US08008298B2
1-[2-(3-Isopropoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one was prepared starting from 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one and 3-Isopropoxybenzeneboronic acid following general procedures as described in these Examples. Silica gel chromatography using 30-70% EtOAc in hexanes as eluant provided 140 mg (82%) of a yellow solid. MP 149-150° C., M+H=338

reactant | 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | BrC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C11H12BrN3O
reactant | 3-Isopropoxybenzeneboronic acid | C(C)(C)OC=1C=C(C=CC1)B(O)O | C9H13BO3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-[2-(3-Isopropoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | C(C)(C)OC=1C=C(C=CC1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C20H23N3O2
